US06194410B1
In an analogous manner to that described in Example 4, from 7-chloro-2-ethyl-3-(4-methoxy-benzenesulphonyl)-5-methyl-pyrazolo[1,5-a]pyrimidine and NH3 in MeOH there was obtained 2-ethyl-3-(4-methoxy-benzenesulphonyl)-5-methyl-pyrazolo[1,5-a]pyrimidin-7-ylamine as colorless crystals, m.p. 186-188°.

reactant | 7-chloro-2-ethyl-3-(4-methoxy-benzenesulphonyl)-5-methyl-pyrazolo[1,5-a]pyrimidine | ClC1=CC(=NC=2N1N=C(C2S(=O)(=O)C2=CC=C(C=C2)OC)CC)C | C16H16ClN3O3S
reactant | NH3 | N | H3N
solvent | MeOH | CO | CH4O
product | 2-ethyl-3-(4-methoxy-benzenesulphonyl)-5-methyl-pyrazolo[1,5-a]pyrimidin-7-ylamine | C(C)C1=NN2C(N=C(C=C2N)C)=C1S(=O)(=O)C1=CC=C(C=C1)OC | C16H18N4O3S
